** sch_path: /home/ghosh/Simone_Analog_Bootcamp/analog/build/schematic/tb_dc_analysis.sch
**.subckt tb_dc_analysis
x1 net2 net4 net6 net7 net1 opamp_two_stage
VDD net2 net8 1.8
VSS net1 GND 0
VCM net3 net9 0.9
R1 net4 net3 1Meg m=1
R2 net5 net3 1Meg m=1
VDIFF net5 net6 0
**** begin user architecture code

blabla


.param mc_mm_switch=0
.param mc_pr_switch=0
.include /home/ghosh/.volare/sky130A/libs.tech/ngspice/corners/tt.spice
.include /home/ghosh/.volare/sky130A/libs.tech/ngspice/r+c/res_typical__cap_typical.spice
.include /home/ghosh/.volare/sky130A/libs.tech/ngspice/r+c/res_typical__cap_typical__lin.spice
.include /home/ghosh/.volare/sky130A/libs.tech/ngspice/corners/tt/specialized_cells.spice

**** end user architecture code
**.ends

* expanding   symbol:  opamp_two_stage.sym # of pins=5
** sym_path: /home/ghosh/Simone_Analog_Bootcamp/analog/schematics/opamp_two_stage.sym
** sch_path: /home/ghosh/Simone_Analog_Bootcamp/analog/schematics/opamp_two_stage.sch
.subckt opamp_two_stage VDD VIN_N VIN_P VOUT VSS
*.iopin VDD
*.iopin VSS
*.opin VOUT
*.ipin VIN_P
*.ipin VIN_N
XM1 net1 VIN_N net3 GND sky130_fd_pr__nfet_01v8 L=1 W=5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=2 m=2
XM2 net2 VIN_P net3 GND sky130_fd_pr__nfet_01v8 L=1 W=5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=2 m=2
XM7 VOUT net4 VSS GND sky130_fd_pr__nfet_01v8 L=1 W=2 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=4 m=4
XM8 net3 net4 VSS GND sky130_fd_pr__nfet_01v8 L=1 W=2 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM3 net1 net1 VDD VDD sky130_fd_pr__pfet_01v8 L=1 W=5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=2 m=2
XM6 VOUT net2 VDD VDD sky130_fd_pr__pfet_01v8 L=1 W=5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=8 m=8
XM4 net2 net1 VDD VDD sky130_fd_pr__pfet_01v8 L=1 W=5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=2 m=2
XM9 net4 net4 VSS GND sky130_fd_pr__nfet_01v8 L=1 W=2 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=2 m=2
I0 net5 net4 1m
.ends

.GLOBAL GND
.end
